US07618975B2
N4-(4-Methoxy-phenyl)-N4-methyl-N2-(2-morpholin-4-yl-ethyl)-quinazoline-2,4-diamine
The title compound was prepared from (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine (10 mg, 0.033 mmol) and 2-morpholin-4-yl-ethylamine (30 μL) by a procedure similar to example 10 and was isolated as white powder (10 mg, 100%). 1H NMR (CDCl3): 7.42 (dd, J=8.7 and 1.2 Hz, 1H), 7.36 (ddd, J=8.1, 6.6 and 1.5 Hz, 1H), 7.10-7.09 (m, 2H), 6.92-6.86 (m, 3H), 6.67 (ddd, J=8.1, 6.6 and 1.4 Hz, 1H), 3.82 (s, 3H), 3.75-3.62 (m, 6H), 3.52 (s, 3H), 2.55-2.44 (m, 6H).

reactant | (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 0.033 mmol, 10 mg | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H14ClN3O
reactant | 2-morpholin-4-yl-ethylamine | 30 μL | N1(CCOCC1)CCN | C6H14N2O
product | N4-(4-Methoxy-phenyl)-N4-methyl-N2-(2-morpholin-4-yl-ethyl)-quinazoline-2,4-diamine | COC1=CC=C(C=C1)N(C1=NC(=NC2=CC=CC=C12)NCCN1CCOCC1)C | C22H27N5O2
